Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / Keflex / codeine 
/ ciprofloxacin / bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
Ventral Hernia
 
Major Surgical or Invasive Procedure:
INSERTION TISSUE EXPANDER ABDOMINAL WALL ENDOSCOPIC BILATERAL
 
History of Present Illness:
___ with dwarfism, dementia and hydrocephalus with multiple 
abdominal operations as well as recurrent hernia repairs; now 
s/p b/l abd TE placement.
 
Past Medical History:
PMH: dwarfism, dementia, CVA, epilepsy, OA, HTN, FTT,
hydrocephalus s/p VPS, arthritis, urinary incontinence,
constipation, GERD, depression

PSH: open CCY, cesaerean x3, TAH, VP shunt, mult VHR

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Pre-procedure physical exam from anesthesia on ___:
Gen: Achondroplastic, NAD
HEENT: Neck supple, ATNC, normal oropharynx
CV: RRR, no murmur
Pulm: CTA
Abd: Soft, multiple hernias, +BS

 
Brief Hospital Course:
Patient underwent placement of 2x TEs 400cc (filled with 200cc) 
placed via upper abd/subcostal incisions via endoscope.  Skin 
closed with dermabond and tegaderms. During the postoperative 
period, the patient had airway obstruction and was temporarily 
re-intubated. She was later successfully extubated. The 
patient's incision sites remained clean, dry and intact and the 
patient recovered well. She did not have any complications in 
the hospital. 
.
Discharge Exam:
T 98.1  HR 104 BP 153/70, RR 18, SpO2 97RA
Surgical dressings C/D/I. No drains. Abdomen soft
 
Medications on Admission:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Atorvastatin 20 mg PO QPM 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Docusate Sodium 200 mg PO QAM 
6. Duloxetine 60 mg PO DAILY 
7. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Magnesium Oxide 400 mg PO BID 
10. Omeprazole 20 mg PO DAILY 
11. Pramipexole 0.125 mg PO QHS 
12. Prochlorperazine 10 mg PO Q8H:PRN nausea 
13. Psyllium Powder 1 PKT PO QHS 
14. rivastigmine tartrate 1.5 mg oral BID 
15. Senna 17.2 mg PO DAILY 
16. Aspirin 81 mg PO DAILY 
17. potassium chloride 10 mEq oral DAILY 
Extended Release capsule 
18. nystatin 100,000 unit/gram topical DAILY:PRN red, rashy skin 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Atorvastatin 20 mg PO QPM 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Docusate Sodium 200 mg PO QAM 
6. Duloxetine 60 mg PO DAILY 
7. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Magnesium Oxide 400 mg PO BID 
10. Omeprazole 20 mg PO DAILY 
11. Pramipexole 0.125 mg PO QHS 
12. Prochlorperazine 10 mg PO Q8H:PRN nausea 
13. Psyllium Powder 1 PKT PO QHS 
14. rivastigmine tartrate 1.5 mg oral BID 
15. Senna 17.2 mg PO DAILY 
16. Aspirin 81 mg PO DAILY 
17. potassium chloride 10 mEq oral DAILY 
Extended Release capsule 
18. nystatin 100,000 unit/gram topical DAILY:PRN red, rashy skin 

19. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ventral Hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Personal Care:   
1. You may leave your incisions open to air or you may cover 
them with a clean, dry dressing daily.   
2. You may shower daily 48 hours after surgery. No baths until 
instructed to do so by Dr. ___.   
.   
Activity:   
1. You may resume your regular diet.   
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___.   
.   
Medications:   
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered.   
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenolor Extra Strength Tylenol 
for mild pain as directed on the packaging.    
3. Take prescription pain medications for pain not relieved by 
tylenol.     
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.   
5.  Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.   
.   
Call the office IMMEDIATELY if you have any of the following:   
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).   
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 degrees.   
4. Severe pain NOT relieved by your medication.   
.   
Return to the ER if:   
* If you are vomiting and cannot keep in fluids or your 
medications.   
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.   
* Any serious change in your symptoms, or any new symptoms that 
concern you.   

 
Followup Instructions:
___